US08609644B2
To a suspension of 3α-acetylthioandrostane-6,17-dione (1.07 g) in MeOH (30 mL), sodium propanethiolate (0.28 g) was added and the reaction stirred for 20 minutes at room temperature. The mixture was neutralized with 1N HCl. Water was added and the mixture extracted with EtOAc. The organic layer was separated, washed with brine, and dried over Na2SO4 and evaporated to dryness to give 3α-mercaptoandrostane-6,17-dione (943 mg, 100%), used without further purification. 1H-NMR (300 MHz, DMSO-d6, ppm from TMS): δ 3.54 (1H, m), 2.77 (1H, m), 2.54 (1H, d), 2.45-1.10 (19H, m), 0.78 (3H, s), 0.66 (3H, s).

reactant | 3α-acetylthioandrostane-6,17-dione | 1.07 g | C(C)(=O)S[C@H]1CC2C(C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)=O | C21H30O3S
reactant | sodium propanethiolate | 0.28 g | C(CC)[S-].[Na+]
reactant | HCl | 1N | Cl | ClH
reactant | Water | O | H2O
solvent | MeOH | 30 mL | CO | CH4O
product | 3α-mercaptoandrostane-6,17-dione | 943 mg, 100% | S[C@H]1CC2C(C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)=O | C19H28O2S
